US05877196
2-[4-(4-Nitrophenoxy)butyl]-1H-isoindole-1,3 (2H)-dione
A solution of 14.0 g of 4-nitrophenol in 250 ml of dimethylformamide is treated with 6.0 g of sodium methoxide. After 15 minutes, 28.2 g of 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione is added, and the mixture then stirred at room temperature for 16 hours. The reaction mixture is diluted with 1500 ml of cold water, the precipitated solid collected, washed with water, and dried. Recrystallization from ethanol gives the desired compound, m.p. 112°-114° C.

reactant | 4-nitrophenol | 14.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium methoxide | 6.0 g | C[O-].[Na+]
reactant | 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione | 28.2 g | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | 1500 ml | O | H2O
product | 2-[4-(4-Nitrophenoxy)butyl]-1H-isoindole-1,3 (2H)-dione | [N+](=O)([O-])C1=CC=C(OCCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C18H16N2O5
